US05283244
In 5 ml of DMF were dissolved 1 g of 4-amino-2-fluoro-5-nitrobenzonitrile and 1.1 g of imidazole, and the mixture was stirred at 100° C. for 1 hour. The reaction mixture was then diluted with water and the resulting crystals were recovered by filtration to provide 1.2 g of 4-amino-2-(1-imidazolyl)-5-nitrobenzonitrile. Physicochemical properties:

reactant | 4-amino-2-fluoro-5-nitrobenzonitrile | 1 g | NC1=CC(=C(C#N)C=C1[N+](=O)[O-])F | C7H4FN3O2
reactant | imidazole | 1.1 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-amino-2-(1-imidazolyl)-5-nitrobenzonitrile | 1.2 g | NC1=CC(=C(C#N)C=C1[N+](=O)[O-])N1C=NC=C1 | C10H7N5O2
